US06156776
2-(4'-Fluorophenyl)-4-[4'-[3-(N,N-dimethylamino)-propyl]phenyl]thiazole (II: R1 =H, R2 =4-F, P=3, V=N, R3 =R4 =CH3)
A warm solution of 2-(4'-fluorophenyl)-4-[4'-(1-dimethylamino-2-propyn-3-yl)phenyl]thiazole (0.2 g, 0.6 mmol) in abs. EtOH (20 ml) containing a catalytic amount of palladium on activated carbon (5%, 20 mg) is shaked under hydrogen atomsphere (30 psi) for 2 h. After removal of the catalyst by filtration, the filtrate is concentrated to give 2-(4'-fluorophenyl)-4-[4'-(3-N,N-dimethylamino-propyl)phenyl]thiazole as desired product (0.18 g, 89%).

reactant | 2-(4'-fluorophenyl)-4-[4'-(1-dimethylamino-2-propyn-3-yl)phenyl]thiazole | 0.6 mmol, 0.2 g | FC1=CC=C(C=C1)C=1SC=C(N1)C1=CC=C(C=C1)C#CCN(C)C | C20H17FN2S
catalyst | palladium on activated carbon | 20 mg | [Pd] | Pd
solvent | EtOH | 20 ml | CCO | C2H6O
product | 2-(4'-Fluorophenyl)-4-[4'-[3-(N,N-dimethylamino)-propyl]phenyl]thiazole | 0.18 g, 89% | FC1=CC=C(C=C1)C=1SC=C(N1)C1=CC=C(C=C1)CCCN(C)C | C20H21FN2S
